US08207151B2
2-((10S,13S,17R)-17-hydroxy-10,13-dimethyl-3-oxo-2,3,6,7,8,10,12,13,14,15,16,17-dodecahydro-1H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate:
The title compound can be synthesized from hydrocortisone acetate according to the procedure disclosed in EP 0097328.405 g (1 mol) of hydrocortisone acetate is added to a mixture of 2 liters of N,N-dimethylformamide and 350 ml of pyridine, and with stirring at room temperature, 260 g of methanesulfonyl chloride is added. The reaction mixture is heated, maintained at 80 to 85° C. for 1 hour, and then cooled to room temperature. Methanol (7 liters) is added. The precipitated crystals are separated by filtration, washed with methanol and water, and dried under reduced pressure to give the title compound.

reactant | hydrocortisone acetate | 1 mol | CC(=O)OCC(=O)[C@]1(CC[C@@H]2[C@@]1(C[C@@H]([C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)O)C)O | C23H32O6
reactant | N,N-dimethylformamide | 2 liters | CN(C=O)C | C3H7NO
reactant | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 260 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | Methanol | 7 liters | CO | CH4O
product | 2-((10S,13S,17R)-17-hydroxy-10,13-dimethyl-3-oxo-2,3,6,7,8,10,12,13,14,15,16,17-dodecahydro-1H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate | C(C)(=O)OCC(=O)[C@]1(CCC2C3CCC4=CC(CC[C@@]4(C3=CC[C@]12C)C)=O)O | C23H30O5
